US08420655B2
3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-(3-methyl-1,2,4-triazol-1-yl)-benzonitrile
To a solution of 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-fluoro-benzonitrile (200 mg, 0.52 mmol) in DMSO (6 mL) are added 2-methyl-1H-1,2,4-triazole (65 mg, 0.78 mmol) and K2CO3 (143 mg, 1.04 mmol) at room temperature. The solution is heated at 100° C. for 12 hours. The solution is cooled down and extracted with EtOAc (2×15 mL) and H2O (20 mL). The combined organic layer is dried with MgSO4 (500 mg) and filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography with 5% MeOH in CH2Cl2 as the eluent to afford the title compound (130 mg, 56%) as a white solid. LCMS (ESMS): m/z: 450.20 (M++1)

reactant | 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-fluoro-benzonitrile | 0.52 mmol, 200 mg | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C#N)C=CC2F)C(C)(C)C)C=C1 | C22H19FN6
reactant | 2-methyl-1H-1,2,4-triazole | 0.78 mmol, 65 mg | CN1NC=NC1 | C3H7N3
reactant | K2CO3 | 1.04 mmol, 143 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 3-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-(3-methyl-1,2,4-triazol-1-yl)-benzonitrile | 130 mg, 56% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C#N)C=CC2N2N=C(N=C2)C)C(C)(C)C)C=C1 | C25H23N9
